US03931179
To a solution of 5.0 g. of 3,4-ethylenedioxybenzoic acid methyl ester in 5.0 mls. of glacial acetic acid is added dropwise 5.0 mls. of 70% nitric acid at 50°-60°C. After addition the reaction mixture is kept at 55°C. for one hour, then cooled and 50 mls. of ice water added. The resulting precipitate is recovered by filtering, water washed and dried to obtain 6-nitro-3,4-ethylenedioxybenzoic acid methyl ester, m.p. 115°-118°C.

reactant | 3,4-ethylenedioxybenzoic acid methyl ester | COC(C1=CC2=C(C=C1)OCCO2)=O | C10H10O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-nitro-3,4-ethylenedioxybenzoic acid methyl ester | COC(C1=CC2=C(C=C1[N+](=O)[O-])OCCO2)=O | C10H9NO6
